US07345056B2
20.9 g of 9-azabicyclo[3.3.1]nonan-3-one hydrochloride was dissolved in 600 mL of DMF. 89.0 g of Cs2CO3 followed by 29 g of 4-chlorobenzenesulfonyl chloride was added and the reaction mixture was stirred overnight at rt. After an additional day of stirring, the reaction mixture was poured into 1.4 L of vigorously stirring EtOAc. The mixture was stirred for 2 h and allowed to stand at rt overnight. The mixture was filtered to remove undissolved solids and the filtrate was washed with H2O (2 L×3) and brine (2 L). The organic layer was dried over MgSO4, filtered and the solvent was removed by rotary evaporation. A granular, tan solid was produced. Trituration with methanol dissolved a tan impurity to afford 9-(4-chlorophenylsulfonyl)-9-azabicyclo[3.3.1]nonan-3-one as a white crystalline solid (25.9 g, 69% yield).

reactant | 9-azabicyclo[3.3.1]nonan-3-one hydrochloride | 20.9 g | Cl.C12CC(CC(CCC1)N2)=O
reactant | Cs2CO3 | 89.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-chlorobenzenesulfonyl chloride | 29 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | 9-(4-chlorophenylsulfonyl)-9-azabicyclo[3.3.1]nonan-3-one | 25.9 g, 69% yield | ClC1=CC=C(C=C1)S(=O)(=O)N1C2CC(CC1CCC2)=O | C14H16ClNO3S
